US07211335B2
Synthesis of 2-(2-{2-[4-(3,5-diphenyl-4,5-dihydro-pyrazol-1-yl)-phenyl]-vinyl}-6-isopropyl-pyran-4-ylidene)-malononitrile
As shown in the following reaction 9, 0.5 g (2.5 mmol) of 2-(2-isopropyl-6-methyl-pyran-4-ylidene)-malononitrile and 0.815 g (2.5 mmol) of 4-(3,5-diphenyl-4,5-dihydro-pyrazol-1-yl)-benzaldehyde were added into 20 ml of ethanol, and 0.32 g (3.75 mmol) of piperidine was added thereto. The reaction solution was heated at 75° C. for 10 hours.

reactant | 2-(2-isopropyl-6-methyl-pyran-4-ylidene)-malononitrile | 2.5 mmol, 0.5 g | C(C)(C)C=1OC(=CC(C1)=C(C#N)C#N)C | C12H12N2O
reactant | 4-(3,5-diphenyl-4,5-dihydro-pyrazol-1-yl)-benzaldehyde | 2.5 mmol, 0.815 g | C1(=CC=CC=C1)C1=NN(C(C1)C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C22H18N2O
reactant | piperidine | 3.75 mmol, 0.32 g | N1CCCCC1 | C5H11N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(2-{2-[4-(3,5-diphenyl-4,5-dihydro-pyrazol-1-yl)-phenyl]-vinyl}-6-isopropyl-pyran-4-ylidene)-malononitrile | C1(=CC=CC=C1)C1=NN(C(C1)C1=CC=CC=C1)C1=CC=C(C=C1)C=CC=1OC(=CC(C1)=C(C#N)C#N)C(C)C | C34H28N4O
